US07186715B2
4-{2-[2-(Methanesulfonyl-methyl-amino)-propoxy]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester
4-[2-(2-Methanesulfonylamino-propoxy)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester (470 mg, 1.14 mmol) was dissolved in THF (20 mL) and cooled to 0° C. Sodium hydride (29 mg of 60% dispersion in oil, 1.2 mmol) was added followed by dropwise addition of methyl iodide (78 μL, 1.25 mmol). The mixture was warmed to r.t. and stirred for about 36 hours. Ethyl acetate (20 mL) was added, and the solution was washed with saturated NaHCO3 (5 mL), H2O (5 mL) and brine (5 mL) and then dried over magnesium sulfate. The solvents were removed under reduced pressure to afford the final compound as a clear oil (486 mg, 100%).

reactant | 4-[2-(2-Methanesulfonylamino-propoxy)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester | 1.14 mmol, 470 mg | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)OCC(C)NS(=O)(=O)C | C19H31N3O5S
reactant | Sodium hydride | 1.2 mmol, 29 mg | [H-].[Na+]
reactant | methyl iodide | 1.25 mmol, 78 μL | CI | CH3I
reactant | Ethyl acetate | 20 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 4-{2-[2-(Methanesulfonyl-methyl-amino)-propoxy]-phenyl}-piperazine-1-carboxylic acid tert-butyl ester | 486 mg, 100% | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)OCC(C)N(C)S(=O)(=O)C | C20H33N3O5S
